data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-c1ccc(OC)cc1_2-c1ccccc1_3-c1ccc(C#N)cc1","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#Cc1ccc(OC)cc1)(O)(c1ccccc1)(c1ccc(C#N)cc1)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C=C(c1ccccc1)(c1ccc(C#N)cc1)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#Cc1ccc(OC)cc1)(c1ccccc1)(c1ccc(C#N)cc1)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#Cc1ccc(OC)cc1)(c1ccccc1)(c1ccc(C#N)cc1)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from c1ccccc1 and c1ccc(C#N)cc1."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(c1ccc(OC)cc1)=C=C(c1ccccc1)(c1ccc(C#N)cc1)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C=C(c1ccccc1)(c1ccc(C#N)cc1)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
{"reaction_id": "NR-217_1-c1ccccc1_2-c1ccccc1","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(c1ccccc1)C(c1ccccc1)[Si](C)(C)C"],"products_smiles": ["C(c1ccccc1)=C(c1ccccc1)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(c1ccccc1)C(c1ccccc1)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)=C(c1ccccc1)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
{"reaction_id": "NR-052_1-c1ccccc1_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-CC","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
